US06348474B1
3-(2,4-Dichlorobenzoyl)-5-(methoxycarbonyl)-2-methylbenzo[b]furan
Aluminum chloride (2.52 g, 18.9 mmol) was suspended in methylene chloride (25 ml) and 2,4-dichlorobenzoyl chloride (1.98 g, 9.5 mmol) was added. Then, 5-(methoxycarbonyl)-2-methylbenzo[b]furan (1.5 g, 7.9 mmol) was added and the mixture was stirred at room temperature for 1.5 hr. The reaction mixture was poured into ice water and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (twice) and then saturated brine, and dried over anhydrous sodium sulfate. The desiccant was filtered off and the filtrate was concentrated under reduced pressure to give the objective compound (2.9 g, quantitative) as colorless crystals.

reactant | Aluminum chloride | 18.9 mmol, 2.52 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2,4-dichlorobenzoyl chloride | 9.5 mmol, 1.98 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | 5-(methoxycarbonyl)-2-methylbenzo[b]furan | 7.9 mmol, 1.5 g | COC(=O)C1=CC2=C(OC(=C2)C)C=C1 | C11H10O3
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 3-(2,4-Dichlorobenzoyl)-5-(methoxycarbonyl)-2-methylbenzo[b]furan | ClC1=C(C(=O)C=2C3=C(OC2C)C=CC(=C3)C(=O)OC)C=CC(=C1)Cl | C18H12Cl2O4
